US05639913
(rac)-N-Benzoyl-1-aminoindan
The title compound was prepared in 77% from (rac)-1-aminoindan (1.0 g, 7.5 mmole) and benzoyl chloride (2.1 g, 15 mmole), under the Schotten-Bauman conditions, according to J. Chem. Soc. 71, 251 (1897) and J. Org. Chem. 27, 4465 (1962), m.p.: 140°-2° C.

reactant | (rac)-1-aminoindan | 7.5 mmole, 1.0 g | NC1CCC2=CC=CC=C12 | C9H11N
reactant | benzoyl chloride | 15 mmole, 2.1 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | (rac)-N-Benzoyl-1-aminoindan | C(C1=CC=CC=C1)(=O)NC1CCC2=CC=CC=C12 | C16H15NO
